US07777047B2
N-[2-(5-{2-[(2-hydroxyethyl)amino]ethyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a solution of N-methyl-N-{2-[5-(2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (300 mg) in methanol (5 mL) was added 2-aminoethanol (70 μL), and the mixture was stirred with heating under reflux for 4 hr. The reaction mixture was allowed to cool to room temperature, sodium borohydride (55 mg) was added, and the mixture was stirred for 30 min. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (220 mg, yield 67%) as a colorless amorphous solid from a fraction eluted with ethyl acetate-methanol (10:1, volume ratio). MS: 465 (MH+).

reactant | N-methyl-N-{2-[5-(2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 300 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC=O | C18H17N3O3S3
reactant | 2-aminoethanol | 70 μL | NCCO | C2H7NO
reactant | sodium borohydride | 55 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(5-{2-[(2-hydroxyethyl)amino]ethyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 220 mg, yield 67% | OCCNCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C20H24N4O3S3
